US07163937B2
Benzyl (S)-1-((1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (1.0 g) was dissolved in a 4/1/1 mixture of AcOH/THF/H2O (60 mL). After 72 h, additional 4/1/1 mixture of AcOH/THF/H2O (30 mL) was added. This solution was stirred an additional 24 h before it was concentrated. The residue was dissolved in EtOAc and washed with saturated NaHCO3, dried (MgSO4), filtered, and concentrated in vacuo to afford benzyl (S)-1-((1S,2S,4R)-4-hydroxy-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (750 mg). MS found: (M+H)+=375.3.

reactant | Benzyl (S)-1-((1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)C(C)C | C27H44N2O4Si
solvent | AcOH THF H2O | 60 mL | CC(=O)O.C1CCOC1.O
solvent | AcOH THF H2O | 30 mL | CC(=O)O.C1CCOC1.O
product | benzyl (S)-1-((1S,2S,4R)-4-hydroxy-2-isopropylcyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 750 mg | O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)C(C)C | C21H30N2O4
